US06414148B1
Diethyl azodicarboxylate (0.18 ml, 1.14 mmol) was added dropwise to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (111 mg, 0.35 mmol), (prepared as described for the staring material in Example 2), triphenylphosphine (312 mg, 1.19 mmol) and (S)-1-(3-hydroxypropyl)-2-(N,N-dimethylcarbamoyl)pyrrolidine (84 mg, 0.42 mmol) in methylene chloride (10 ml) cooled at 0° C. under nitrogen. The mixture was stirred for 15 minutes at 0° C., the mixture was allowed to warm to ambient temperature and was then stirred for 22 hours. Further (S)-1-(3-hydroxypropyl)-2-(N,N-diethylcarbamoyl)pyrrolidine (10 mg, 0.05 mmol), triphenylphosphine (35 mg, 0.13 mmol) and diethyl azodicarboxylate (20 μl, 0.13 mmol) were added and the mixture was stirred for a further 2 hours. The mixture was partitioned between water and methylene chloride and the aqueous phase was adjusted to pH2 with 2M hydrochloric acid. The aqueous layer was separated, adjusted to pH9 with sodium hydrogen carbonate and was extracted with methylene chloride. The combined organic extracts were washed with water and then brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography on silica eluting with methylene chloride/methanol (85/15 followed by 75/25 and 60/40). The purified product was dissolved in methylene chloride (5 ml) and methanol (1 ml), 3.9M ethereal hydrogen chloride (0.5 ml) was added and the mixture was diluted with ether. The resulting precipitate was collected by filtration, washed with ether, and dried under vacuum to give (S)-4-(4-chloro-2-fluoroanilino)-7-(3-(2-(N,N-dimethylcarbamoyl)pyrrolidin-1-yl)propoxy)-6-methoxyquinazoline hydrochloride (86 mg, 32%).

reactant | Diethyl azodicarboxylate | 1.14 mmol, 0.18 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.35 mmol, 111 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | triphenylphosphine | 1.19 mmol, 312 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (S)-1-(3-hydroxypropyl)-2-(N,N-dimethylcarbamoyl)pyrrolidine | 0.42 mmol, 84 mg | OCCCN1[C@@H](CCC1)C(N(C)C)=O | C10H20N2O2
reactant | (S)-1-(3-hydroxypropyl)-2-(N,N-diethylcarbamoyl)pyrrolidine | 0.05 mmol, 10 mg | OCCCN1[C@@H](CCC1)C(N(CC)CC)=O | C12H24N2O2
reactant | triphenylphosphine | 0.13 mmol, 35 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.13 mmol, 20 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (S)-4-(4-chloro-2-fluoroanilino)-7-(3-(2-(N,N-dimethylcarbamoyl)pyrrolidin-1-yl)propoxy)-6-methoxyquinazoline hydrochloride | 86 mg, 32% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCN2[C@@H](CCC2)C(N(C)C)=O)C=C1)F | InChI=1S/C25H29ClFN5O3.ClH/c1-31(2)25(33)21-6-4-9-32(21)10-5-11-35-23-14-20-17(13-22(23)34-3)24(29-15-28-20)30-19-8-7-16(26)12-18(19)27;/h7-8,12-15,21H,4-6,9-11H2,1-3H3,(H,28,29,30);1H/t21-;/m0./s1
